US05093370
1,4-Bis(4,4-diethoxycarbonylbutyl)benzene
First, to 483 mg of metallic sodium dissolved in 21 ml of absolute ethanol, 6.72 g of diethyl malonate was added dropwise, and the mixture was refluxed for 5 minutes. After cooling, to the solution was added dropwise a mixture of 3.2 g of 1,4-bis(3-bromopropyl)benzene and diethyl malonate over 5 minutes, and the mixture was refluxed for 40 minutes to obtain a white suspension. After cooling and addition of 21 ml of ice water, the mixture was adjusted to pH 7.0 with 1N hydrochloric acid, and ethanol was removed under a reduced pressure to obtain an aqueous layer, which was then twice extracted with 100 ml of benzene each time. The extract was washed with a saturated sodium chloride aqueous solution, dried over magnesium sulfate and evaporated under a reduced pressure to remove the solvent, and then to remove any unreacted diethyl malonate under a reduced pressure at 140° C. to obtain 4.74 g of the title compound as a colorless liquid.

reactant | sodium | 483 mg | [Na] | Na
reactant | diethyl malonate | 6.72 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1,4-bis(3-bromopropyl)benzene | 3.2 g | BrCCCC1=CC=C(C=C1)CCCBr | C12H16Br2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 21 ml | C(C)O | C2H6O
product | 1,4-Bis(4,4-diethoxycarbonylbutyl)benzene | 4.74 g | C(C)OC(=O)C(CCCC1=CC=C(C=C1)CCCC(C(=O)OCC)C(=O)OCC)C(=O)OCC | C26H38O8
